US04200641
A mixture of 79 parts of 1,3-dihydro-1-{2-[4-(phenylmethyl)-1-piperazinyl]ethyl}-2H-benzimidazol-2-one and 320 parts of methanol is hydrogenated at normal pressure and at room temperature with 10 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The oily residue is alkalized with ammonium hydroxide and a small amount of water is added. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The oily residue solidifies on triturating in 4-methyl-2-pentanone. The product is filtered off and dried, yielding 1,3-dihydro-1-[2-(1-piperazinyl)ethyl]-2H-benzimidazol-2-one; mp. 122.6° C.

reactant | 1,3-dihydro-1-{2-[4-(phenylmethyl)-1-piperazinyl]ethyl}-2H-benzimidazol-2-one | C1(=CC=CC=C1)CN1CCN(CC1)CCN1C(NC2=C1C=CC=C2)=O | C20H24N4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1,3-dihydro-1-[2-(1-piperazinyl)ethyl]-2H-benzimidazol-2-one | N1(CCNCC1)CCN1C(NC2=C1C=CC=C2)=O | C13H18N4O
